US08258131B2
(1) Preparation of 1-(3-chloro-5-fluorophenyl)-2,5-dimethyl-1H-pyrrole
2,5-Hexanedione (4.51 mL) and p-toluenesulfonic acid monohydrate (73 mg) were added to a solution of 3-chloro-5-fluoroaniline (5.12 g) in toluene (40 mL)-tetrahydrofuran (40 mL), and the mixture was heated under reflux for 3.5 hours. After being cooled down, the reaction solution was concentrated in vacuo, and the resultant residue was dissolved in chloroform. The solution was washed successively with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulted residue was purified by column chromatography on silica gel (Solvent: n-hexane/ethyl acetate=97/3) to give the titled compound (7.63 g) as a yellow oil.

reactant | 2,5-Hexanedione | 4.51 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | p-toluenesulfonic acid monohydrate | 73 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-chloro-5-fluoroaniline | 5.12 g | ClC=1C=C(N)C=C(C1)F | C6H5ClFN
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-chloro-5-fluorophenyl)-2,5-dimethyl-1H-pyrrole | 7.63 g | ClC=1C=C(C=C(C1)F)N1C(=CC=C1C)C | C12H11ClFN
